US07244722B2
1-[2-(4-Chloro-2-fluorophenoxy)ethyl]-3-(1-piperazinyl)-2(1H)-pyrazinone
1,1′-Azobis(N,N-dimethylformamide (TMAD; 0.217 g, 1.26 mmol) was added to a stirred mixture of 2-[3-(4-tert-butoxycarbonyl-1-piperazinyl)-pyrazinyloxy]ethanol (0.324 g, 1.00 mmol), triphenylphosphine (0.324 g, 1.23 mmol) and 4-chloro-fluorophenol (0.217 g, 1.48 mmol) in THF (1 mL) at room temperature. After 2 h, the reaction mixture was concentrated and the crude N-t-BOC derivative of the title compound was N-deprotected with TFA/dichloromethane/H2O (45:50:5). Purification by chromatography on silica gel using EtOAc/toluene (4:6) as eluent gave 0.123 g (35%) of the title compound as a yellow oil. HRMS m/z calcd for C16H18ClFN4O2 (M)+ 352.1102, found 352.1098.

reactant | N,N-dimethylformamide | 1.26 mmol, 0.217 g | CN(C=O)C | C3H7NO
reactant | 2-[3-(4-tert-butoxycarbonyl-1-piperazinyl)-pyrazinyloxy]ethanol | 1.00 mmol, 0.324 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C(=NC=CN1)OCCO | C15H24N4O4
reactant | triphenylphosphine | 1.23 mmol, 0.324 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-chloro-fluorophenol | 1.48 mmol, 0.217 g | ClC1=CC(=C(C=C1)O)F | C6H4ClFO
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 1-[2-(4-Chloro-2-fluorophenoxy)ethyl]-3-(1-piperazinyl)-2(1H)-pyrazinone | 0.123 g, 35% | ClC1=CC(=C(OCCN2C(C(=NC=C2)N2CCNCC2)=O)C=C1)F | C16H18ClFN4O2
